US05650533
A solution of sodium hydroxide (41.6 g) in water was added to a solution of ethyl 2,6-dichloro-4-trifluoromethylbenzoate (96.3 g) in ethanol. The mixture was heated at reflux for 2.5 hours then cooled and evaporated. It was diluted with water and extracted with ether. The aqueous layer was acidified to pH1 and extracted with ether, washed with water, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness and the residue was triturated with n-hexane and filtered to give 2.6-dichloro-4-trifluoromethylbenzoic acid (62.3 g) as a white solid mp 138.5°-139° C.

reactant | sodium hydroxide | 41.6 g | [OH-].[Na+]
reactant | ethyl 2,6-dichloro-4-trifluoromethylbenzoate | 96.3 g | ClC1=C(C(=O)OCC)C(=CC(=C1)C(F)(F)F)Cl | C10H7Cl2F3O2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2.6-dichloro-4-trifluoromethylbenzoic acid | 62.3 g | ClC1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)Cl | C8H3Cl2F3O2
